US07888347B2
1,1-Dimethylethyl 4-formyl-5-oxohexahydro-1H-azepine-1-carboxylate (D8)
1,1-Dimethylethyl 4-oxohexahydro-1H-azepine-1-carboxylate (commercially available from e.g. Magic Chemicals) (2.0 g, 9.4 mmol) in tetrahydrofuran at −78° C. was treated with a 2M solution of lithium diisopropylamide (4.7 ml, 9.4 mmol) in tetrahydrofuran. After 20 minutes neat ethyl formate (0.7 g, 9.4 mmol) was added and the reaction mixture was allowed to warm to room temperature. After 2 hours the reaction was quenched, poured into water and extracted several times with ethyl acetate. The combined organic layers were then dried and reduced in vacuo to furnish the title compound which may be used without further purification (D8).

reactant | 1,1-Dimethylethyl 4-oxohexahydro-1H-azepine-1-carboxylate | O=C1CCN(CCC1)C(=O)OC(C)(C)C | C11H19NO3
reactant | lithium diisopropylamide | 9.4 mmol, 4.7 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl formate | 9.4 mmol, 0.7 g | C(=O)OCC | C3H6O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1,1-Dimethylethyl 4-formyl-5-oxohexahydro-1H-azepine-1-carboxylate | C(=O)C1CCN(CCC1=O)C(=O)OC(C)(C)C | C12H19NO4
